US09085534B2
3-[(4-methylbenzyl)amino]pyridine-4-carboxylic acid
The title compound was prepared in 51% yield from 4-methylbenzylamine and 3-fluoroisonicotinic acid according to the procedure for the preparation of Example 3. 1H NMR (400 MHz, DMSO-d6): δ 13.41 (br s, 1H), 8.13 (s, 1H), 7.81 (d, 1H, J=5.0 Hz), 7.56 (d, 1H, J=5.0 Hz), 7.25 (d, 2H, J=7.9 Hz), 7.15 (d, 2H, J=7.8 Hz), 4.50 (s, 2H), 2.28 (s, 3H). [M+H] calc'd for C14H14N2O2, 243; found 243.

reactant | 4-methylbenzylamine | CC1=CC=C(CN)C=C1 | C8H11N
reactant | 3-fluoroisonicotinic acid | FC1=C(C(=O)O)C=CN=C1 | C6H4FNO2
product | 3-[(4-methylbenzyl)amino]pyridine-4-carboxylic acid | 51% yield | CC1=CC=C(CNC=2C=NC=CC2C(=O)O)C=C1 | C14H14N2O2
